US07071201B2
(87-1) 1-(1-Acetylpiperidin-4-yl)indoline
Indoline (25 ml), 1-acetyl-4-piperidone (25 g) and glacial acetic acid (20 ml) were dissolved in methanol (300 ml). After adding 10% palladium carbon (1.0 g) thereto, catalytic reduction was carried out under atmospheric pressure. After the completion of the reaction, the reaction solution was filtered through celite, washed with methanol and concentrated under reduced pressure. The residue was partitioned between water and ethyl acetate and basified with a 5 N aqueous solution of sodium hydroxide followed by extraction with ethyl acetate. The ethyl acetate layer was washed with water and brine, dried and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane system) to give the title compound (35.6 g) as a pale yellow wax (yield: 82.2%).

reactant | Indoline | 25 ml | N1CCC2=CC=CC=C12 | C8H9N
reactant | 1-acetyl-4-piperidone | 25 g | C(C)(=O)N1CCC(CC1)=O | C7H11NO2
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 300 ml | CO | CH4O
catalyst | palladium carbon | 1.0 g | [C].[Pd]
product | 1-(1-Acetylpiperidin-4-yl)indoline | 35.6 g, yield: 82.2% | C(C)(=O)N1CCC(CC1)N1CCC2=CC=CC=C12 | C15H20N2O
